US06638929B2
7-Chloro-6-nitro-4-(3,4,5-trimethoxyanilino)-3-quinolinecarbonitrile
A mixture of 500 mg (1.86 mmol) of 4,7-dichloro-6-nitro-3-quinolinecarbonitrile, 342.0 mg (1.86 mmol) of 3,4,5-trimethoxyaniline and 215.5 mg (1.86 mmol) of pyridine hydrochloride in 25 mL of 2-ethoxyethanol is heated at 100-110° C. for 1.5 hours. After cooling, the mixture is diluted with water and neutralized with an aqueous solution of saturated sodium carbonate. The solid is collected by filtration and is washed with water. After drying in vacuo, this yields 621.0 mg (80.5%) of the product as a deep yellow solid.

reactant | 4,7-dichloro-6-nitro-3-quinolinecarbonitrile | 1.86 mmol, 500 mg | ClC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)C#N | C10H3Cl2N3O2
reactant | 3,4,5-trimethoxyaniline | 1.86 mmol, 342.0 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | pyridine hydrochloride | 1.86 mmol, 215.5 mg | Cl.N1=CC=CC=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-ethoxyethanol | 25 mL | C(C)OCCO | C4H10O2
solvent | water | O | H2O
product | 7-Chloro-6-nitro-4-(3,4,5-trimethoxyanilino)-3-quinolinecarbonitrile | ClC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC(=C(C(=C1)OC)OC)OC)[N+](=O)[O-] | C19H15ClN4O5
